US06057332
3-Phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate
2-(1-Piperidinyl)ethanol (15 mL, 113 mmol) in THF (50 mL) was added dropwise to a suspension of sodium hydride (7 g, 175 mmol) in THF (200 mL) at 0° C. The mixture was then stirred for 1 h at room temperature, cooled to 0° C., 3-phenylpropyl 4-chloroacetoacetate (22 mL, 103 mmol) in THF (50 mL) was added dropwise and the reaction mixture was then stirred for 18 h whilst warming to room temperature. 1N Hydrochloric acid was added until the mixture was acidic and the aqueous layer was then separated. The organic layer was extracted twice more with 1N hydrochloric acid. The combined acid layers were made basic to pH 8 with sodium hydrogen carbonate and extracted with chloroform. The combined extracts were washed with brine, dried and evaporated to give the title compound (24 g) as an oil. Electrospray MSm /z 348 [M+H]+.

reactant | 2-(1-Piperidinyl)ethanol | 113 mmol, 15 mL | N1(CCCCC1)CCO | C7H15NO
reactant | sodium hydride | 175 mmol, 7 g | [H-].[Na+]
reactant | 3-phenylpropyl 4-chloroacetoacetate | 103 mmol, 22 mL | ClCC(CC(=O)OCCCC1=CC=CC=C1)=O | C13H15ClO3
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate | 24 g | N1(CCCCC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H29NO4
